### PR TITLE
feat:  BitVec.extract_Lsb'_append_[ite|of_lt|of_le]

### PR DESCRIPTION
**Pull request by bollu**
This PR implements the [BV_EXTRACT_CONCAT](https://github.com/bitwuzla/bitwuzla/blob/6a1a768987cca77f36ebfe06f3a786348a481bbd/src/rewrite/rewrites_bv.cpp#L1264) rule from Bitwuzla, which explains how to extract bits from an append.  We first prove a 'master theorem' which has the full case analysis, from which we rapidly derive the necessary `BV_EXTRACT_CONCAT` theorems:  

```lean
theorem extractLsb'_append_eq_ite {v w} {xhi : BitVec v} {xlo : BitVec w} {start len : Nat} :
    extractLsb' start len (xhi ++ xlo) =
    if hstart : start < w
    then
      if hlen : start + len < w
      then extractLsb' start len xlo
      else
        (((extractLsb' (start - w) (len - (w - start)) xhi) ++
            extractLsb' start (w - start) xlo)).cast (by omega)
    else
      extractLsb' (start - w) len xhi

theorem extractLsb'_append_eq_of_lt {v w} {xhi : BitVec v} {xlo : BitVec w}
    {start len : Nat} (h : start + len < w) :
    extractLsb' start len (xhi ++ xlo) = extractLsb' start len xlo

theorem extractLsb'_append_eq_of_le {v w} {xhi : BitVec v} {xlo : BitVec w}
    {start len : Nat} (h : w ≤ start) :
    extractLsb' start len (xhi ++ xlo) = extractLsb' (start - w) len xhi
```

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2581,6 +2581,74 @@ theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
   cases hx : x.msb <;>
     simp [getElem_cast, hx, getElem_append, getElem_signExtend]
 
+/--
+The 'master theorem' for extracting bits from `(xhi ++  xlo)`,
+which performs a case analysis on the start index, length, and the lengths of `xlo, xhi`.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2586]:
```suggestion
The 'master theorem' for extracting bits from `(xhi ++ xlo)`,
which performs a case analysis on the start index, length, and the lengths of `xlo, xhi`.
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2581,6 +2581,74 @@ theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
...
+· If the start index is entirely out of the `xlo` bitvector, then grab the bits from `xhi`.
+· If the start index is entirely contained in the `xlo` bitvector, then grab the bits from `xlo`.
+· If the start index is split between the two bitvectors,
+  then append `(w - start)` bits from `xlo` with `(len - (w - start))` bits from xhi.
+  Diagramatically:
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2591]:
```suggestion
· If the start index is split between the two bitvectors, then append `(w - start)` bits from `xlo` with
  `(len - (w - start))` bits from xhi.
  Diagramatically:
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2581,6 +2581,74 @@ theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
...
+          show start + i - w = start - w + (i - (w - start)) by omega]
+  · -- start ≥ w
+    simp only [hstart, ↓reduceDIte]
+    ext i hi
+    simp [getElem_extractLsb', getLsbD_append,
+      show ¬start + i < w by omega, ↓reduceIte, 
+      show start + i - w = start - w + i by omega]
+
+/-- Extracting bits `[start..start+len)` from `(xhi ++ xlo)`
+equals extracting the bits from `xlo` when `start + len` is within `xlo`.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2637]:
```suggestion
/-- Extracting bits `[start..start+len)` from `(xhi ++ xlo)` equals extracting
the bits from `xlo` when `start + len` is within `xlo`.
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2581,6 +2581,74 @@ theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
...
+    · -- start + len < w
+      simp only [hlen, ↓reduceDIte]
+      ext i hi
+      simp only [getElem_extractLsb', getLsbD_append, ite_eq_left_iff, Nat.not_lt]
+      intros hcontra
+      omega
+    · -- start + len ≥ w
+      simp [hlen]
+      ext i hi
+      simp [getElem_append, getLsbD_append]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2624]: Nonp-terminal simp

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2581,6 +2581,74 @@ theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
...
+    simp only [hstart, ↓reduceDIte]
+    by_cases hlen : start + len < w
+    · -- start + len < w
+      simp only [hlen, ↓reduceDIte]
+      ext i hi
+      simp only [getElem_extractLsb', getLsbD_append, ite_eq_left_iff, Nat.not_lt]
+      intros hcontra
+      omega
+    · -- start + len ≥ w
+      simp [hlen]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2622]: Non-terminal simp

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2581,6 +2581,74 @@ theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
...
+    then
+      if hlen : start + len < w
+      then extractLsb' start len xlo
+      else
+        (((extractLsb' (start - w) (len - (w - start)) xhi) ++
+            extractLsb' start (w - start) xlo)).cast (by omega)
+    else
+      extractLsb' (start - w) len xhi := by
+  by_cases hstart : start < w
+  · -- start < w
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2612]: These comments are redundant and not typially added. I would suggest to drop them.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -2581,6 +2581,74 @@ theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
...
+/-- Extracting bits `[start..start+len)` from `(xhi ++ xlo)`
+equals extracting the bits from `xlo` when `start + len` is within `xlo`.
+-/
+theorem extractLsb'_append_eq_of_lt {v w} {xhi : BitVec v} {xlo : BitVec w}
+    {start len : Nat} (h : start + len < w) :
+    extractLsb' start len (xhi ++ xlo) = extractLsb' start len xlo := by
+  simp [extractLsb'_append_eq_ite, h]
+  omega
+/-- Extracting bits `[start..start+len)` from `(xhi ++ xlo)`
+equals extracting the bits from `xhi` when `start` is outside `xlo`.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2646]:
```suggestion
/-- Extracting bits `[start..start+len)` from `(xhi ++ xlo)` equals
extracting the bits from `xhi` when `start` is outside `xlo`.
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:2591]: I disagree with this reflow, since it breaks the sentence at an unnatural location.

**Comment by tobiasgrosser** [comment]
I suggest to title this PR 'feat: BitVec.extract_Lsb'_append_[ite|of_lt|of_le]`

**Review by tobiasgrosser — APPROVED** [review]
